US04060559
The same procedure as in Example 1 is repeated except that in place of 1g of chloroplatinic acid hexahydrate, 2.5g of potassium sulfate and at a rate of 15.5 ml/hr. of cyclohexanone dimer, 1.25g of chloropalladium, 2.0g of potassium sulfate and at a rate of 8.0 ml/hr. are employed. The conversion is found to be always 100% over the reaction period of 2,000 hours. Table 2 gives the selectivity for o-phenylphenol measured.

reactant | potassium sulfate | 2.5g | S(=O)(=O)([O-])[O-].[K+].[K+]
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | potassium sulfate | 2.0g | S(=O)(=O)([O-])[O-].[K+].[K+]
catalyst | chloroplatinic acid hexahydrate | O.O.O.O.O.O.[Cl-].[Cl-].[Cl-].[Cl-].[Pt+4]
catalyst | chloropalladium | 1.25g | Cl[Pd]
product | o-phenylphenol | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
